US04079076
To 500 mg. (0.003 m) of acetic acid(3-methyl-4-nitro-2-buten-1-yl)ester in 10 ml. of pyridine was added, under an atmosphere of nitrogen, 8 ml. of a 10% solution of phosphorous trichloride (0.008 m) in methylene chloride. After standing for 1 hour at room temperature the reaction mixture was poured, under cooling, into 3N HCl. The reaction mixture was then extracted with ether, washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent was then evaporated after filtration of the drying agent. The acetic acid (3-methyl-3-cyano-2-propen-1-yl)-ester obtained as a yellow oily residue was purified via vacuum distillation, b.p. 63°/0.05 mmHg.

reactant | acetic acid(3-methyl-4-nitro-2-buten-1-yl)ester | CC(=CCOC(C)=O)C[N+](=O)[O-] | C7H11NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | HCl | 3N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | acetic acid (3-methyl-3-cyano-2-propen-1-yl)-ester | CC(=CCOC(C)=O)C#N | C7H9NO2
